US04820729
B. Ethyl N-Carbobenzoxy-L-Alanyl-N-(5-Indanyl)-Glycinate
To a solution of ethyl N-(5-indanyl)-glycinate (10.6 g, 48.4 mmol) and N,N'-dicyclohexylcarbodiimide (10.5 g, 50.8 mmol) in 200 ml CH2Cl2 at 0° C. was added dropwise a solution of N-carbobenzyloxy-L-alanine (11.3 g, 50.8 mmol) in 100 ml CH2Cl2. After the addition was completed the solution was stirred 10 min., warmed to room temperature and stirred overnight. The solution was filtered and concentrated in vacuo. The residue was dissolved in ether, filtered, washed with saturated NaHCO3, 10% aqueous HCl (5x), brine and dried MgSO4). Concentration of the volatiles in vacuo provided the product.

reactant | ethyl N-(5-indanyl)-glycinate | 48.4 mmol, 10.6 g | C1CCC2=CC(=CC=C12)NCC(=O)OCC | C13H17NO2
reactant | N,N'-dicyclohexylcarbodiimide | 50.8 mmol, 10.5 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-carbobenzyloxy-L-alanine | 50.8 mmol, 11.3 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C)C(=O)O | C11H13NO4
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | Ethyl N-Carbobenzoxy-L-Alanyl-N-(5-Indanyl)-Glycinate | C(=O)(OCC1=CC=CC=C1)N[C@@H](C)C(=O)N(CC(=O)OCC)C=1C=C2CCCC2=CC1 | C24H28N2O5
